US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(4-phenylbutyl)-acetamide hydrochloride (Example 33)
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(4-phenylbutyl)acetamide (194 mg, 0.49 mmol) was dissolved in ethyl methyl ketone, and chlorotrimethylsilane (0.093 ml, 0.74 mmol) was added. After 1.5 h it was possible to filter off the product with suction as a colourless, hygroscopic solid in a yield of 30% (63 mg).

reactant | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(4-phenylbutyl)acetamide | 0.49 mmol, 194 mg | CN(C1(CCC(CC1)CC(=O)NCCCCC1=CC=CC=C1)C1=CC=CC=C1)C | C26H36N2O
reactant | chlorotrimethylsilane | 0.74 mmol, 0.093 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(4-phenylbutyl)-acetamide hydrochloride | yield of 30% | Cl.CN(C1(CCC(CC1)CC(=O)NCCCCC1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C26H36N2O.ClH/c1-28(2)26(24-14-7-4-8-15-24)18-16-23(17-19-26)21-25(29)27-20-10-9-13-22-11-5-3-6-12-22;/h3-8,11-12,14-15,23H,9-10,13,16-21H2,1-2H3,(H,27,29);1H
